US09403818B2
Preparation of methyl 8-(4-ureido-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(4-ureido-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (75 mg, 0.26 mmol) and 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl)-urea (84 mg, 0.32 mmol). Compound precipitated from solution and was filtered off and dried in vacuum to afford the title compound as a yellow solid (29 mg, 26%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.26 mmol, 75 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl)-urea | 0.32 mmol, 84 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC(=O)N)C | C13H19BN2O3
product | methyl 8-(4-ureido-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 29 mg, 26% | N(C(=O)N)C1=CC=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C22H21N3O4
